US06177443B1
Preparation of [4-(4-Chlorophenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-phenyl-methanone, (compound No 11)
Benzoic acid (46 mg, 0.38 mmol) and 1-hydroxybenzotriazole (55 mg, 0.41 mmol) were dissolved in a mixture of dichloromethane (1 mL) and N,N-dimethylformamide (0.5 mL). N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (79 mg, 0.41 mmol) was added and the mixture was shaken 0.5 hour at room temperature. 4-(4-Chlorophenyl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (100 mg, 0.38 mmol) dissolved in dichloromethane (0.5 ml) was added and the mixture was shaken at 1000 rpm for 3 hours. Water (1 mL) was added and the mixture was shaken at 1000 rpm overnight at room temperature. The organic phase was evaporated to give 129 mg (97%) of the title compound as an oil.

reactant | Benzoic acid | 0.38 mmol, 46 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-hydroxybenzotriazole | 0.41 mmol, 55 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.41 mmol, 79 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-(4-Chlorophenyl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 0.38 mmol, 100 mg | ClC1=CC=C(C=C1)C1NCCC2=C1C=CS2 | C13H12ClNS
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | Water | 1 mL | O | H2O
product | [4-(4-Chlorophenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-phenyl-methanone | 129 mg, 97% | ClC1=CC=C(C=C1)C1N(CCC2=C1C=CS2)C(=O)C2=CC=CC=C2 | C20H16ClNOS
